US05849755
d) 3-(5-Chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanol
A suspension of 25 g (64 mmol) of 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanone and 1.24 g (32 mmol) of powdered sodium borohydride in 100 ml of ethanol was stirred at 50° C. for 3 hours, during which the solid dissolved. After cooling, the solution was then poured into ice-water acidified with hydrochloric acid, and extracted with methylene chloride. The organic solution was washed with water, dried and evaporated. The resulting 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanol (diastereomer mixture) melted from 165° C.

reactant | 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanone | 64 mmol, 25 g | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=CC=C3C2=O)OC)(C)C)C1)OC | C20H20ClNO5
reactant | sodium borohydride | 32 mmol, 1.24 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(5-Chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanol | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=CC=C3C2O)OC)(C)C)C1)OC | C20H22ClNO5
